US08314094B2
2) Synthesis of 4-{[(4-fluorobenzoyl)amino]methyl}-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazine-6-carboxylic acid
N-{[6-cyano-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide was dissolved in 25% hydrogen bromide-acetic acid (5 mL) and water (1 mL), and the solution was stirred overnight at 100° C. The temperature of the solution was brought to room temperature, and water was added thereto under stirring. After the solution was stirred at room temperature for 30 minutes, the resulting brown solid was dried under reduced pressure, whereby the objective compound (317 mg, 55%) was obtained as a brown solid.

reactant | N-{[6-cyano-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide | C(#N)C=1C=CC2=C(C(OC(N2CC2=CC=C(C=C2)OC)=O)(C(F)(F)F)CNC(C2=CC=C(C=C2)F)=O)C1 | C26H19F4N3O4
reactant | hydrogen bromide acetic acid | 5 mL | Br.C(C)(=O)O
solvent | water | 1 mL | O | H2O
product | 4-{[(4-fluorobenzoyl)amino]methyl}-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazine-6-carboxylic acid | FC1=CC=C(C(=O)NCC2(OC(NC3=C2C=C(C=C3)C(=O)O)=O)C(F)(F)F)C=C1 | C18H12F4N2O5
